US06949551B2
Step 1: 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)-propyloxy]benzoic acid
1 g of methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzoate was dissolved in 20 ml of tetrahydrofuran and 10 ml of methanol, and 2.6 ml of 2N aqueous sodium hydroxide solution were added. After one hour of stirring at room temperature, 2.6 ml of 2N hydrochloric acid were added, and the reaction mixture was concentrated under reduced pressure. Saturated sodium chloride solution and ethyl acetate were added to the residue, and the mixture was shaken. The ethyl acetate phase was isolated, dried and concentrated. The resulting crude product was purified chromatographically. Yield: 0.91 g (94%)

reactant | methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzoate | 1 g | ClC=1C(=C(C(=O)OC)C=C(C1)OCC=C(Cl)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F | C20H17Cl3F3NO5
reactant | sodium hydroxide | 2N, 2.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 2.6 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)-propyloxy]benzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)OCC=C(Cl)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F | C19H15Cl3F3NO5
